US05274116
(±)-Phenylmethyl-[1-(acetyloxymethyl)-2-oxo-2-(1H-pyrrol-1-ylamino)ethyl]carbamate
To a stirred solution of (±)-phenylmethyl-[1-(hydroxymethyl)-2-oxo-2-(1H-pyrrol-1-ylamino)ethyl]carbamate (4.26 g) in 100 ml of dichloromethane and 20 ml of dimethylformamide were added acetic anhydride (3.0 ml) and pyridine (2.5 ml). The reaction mixture was stirred overnight at room temperature and then combined with the product from a 5.41 mmol scale reaction which was performed under the same conditions. The reaction mixture was washed with 5% citric acid and water, and dried over magnesium sulfate. After evaporation, the crude product was purified by flash column chromatography (silica gel, DCM/methanol, 30:1). Recrystallization from ethyl acetate/n-hexane afforded the product as a powder (2.96 g, 44%), m.p. 154°-155° C.

reactant | (±)-phenylmethyl-[1-(hydroxymethyl)-2-oxo-2-(1H-pyrrol-1-ylamino)ethyl]carbamate | 4.26 g | C1(=CC=CC=C1)COC(NC(C(NN1C=CC=C1)=O)CO)=O | C15H17N3O4
reactant | acetic anhydride | 3.0 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 2.5 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | (±)-Phenylmethyl-[1-(acetyloxymethyl)-2-oxo-2-(1H-pyrrol-1-ylamino)ethyl]carbamate | 2.96 g, 44% | C1(=CC=CC=C1)COC(NC(C(NN1C=CC=C1)=O)COC(C)=O)=O | C17H19N3O5
